US04668697
5-N,N-Dimethylcarbamoyloxy-2-sulfamoylbenzo[b]thiophene
A solution of 2.3 g (10 mmoles) of 5-hydroxy-2-sulfamoylbenzo[b]thiophene in 50 ml of pyridine was treated with 200 mg of 4-dimethylaminopyridine and finally 2.5 ml (2.9 g, 27 mmoles) of dimethylcarbamyl chloride. The resultant clear solution was stirred at room temperature for 48 hours, when it was poured into a mixture of 200 g of chopped ice and 100 ml of concentrated HCl. The precipitated solid was collected and washed with cold H2O until the washings were neutral. Drying gave 2.25 g (75%) of tan powder which was crystallized from isopropyl alcohol to give 1.6 g of product, m.p. 192°-194° C.

reactant | 5-hydroxy-2-sulfamoylbenzo[b]thiophene | 10 mmoles, 2.3 g | OC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C8H7NO3S2
reactant | dimethylcarbamyl chloride | 27 mmoles, 2.5 ml, 2.9 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | HCl | 100 ml | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-N,N-Dimethylcarbamoyloxy-2-sulfamoylbenzo[b]thiophene | 2.25 g, 75% | CN(C)C(=O)OC1=CC2=C(C=C1)SC(=C2)S(=O)(=O)N | C11H12N2O4S2
